US04857643
α-Bromopropionyl chloride (0.97 ml) in methylene chloride (15 ml) is added dropwise to a mixture of 2-(o-methoxyphenoxy)methyl-thiazolidine (2 g) and triethylamine (1.35 ml) in CH2Cl2 (30 ml) at 0°-5° C. After 1 hour, the mixture is washed with water and the usual work-up gives 3-α-bromopropionyl-2-(o-methoxyphenoxy)methyl-thiazolidine as a colourless oil.

reactant | α-Bromopropionyl chloride | 0.97 ml | BrC(C(=O)Cl)C | C3H4BrClO
reactant | 2-(o-methoxyphenoxy)methyl-thiazolidine | 2 g | COC1=C(OCC2SCCN2)C=CC=C1 | C11H15NO2S
reactant | triethylamine | 1.35 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-α-bromopropionyl-2-(o-methoxyphenoxy)methyl-thiazolidine | BrC(C(=O)N1C(SCC1)COC1=C(C=CC=C1)OC)C | C14H18BrNO3S
